US08754229B2
Preparation of methyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methoxypicolinate (Compound 5)
Methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methoxypicolinate (209 mg, 0.55 mmol) was dissolved in CH3OH (10 mL), and acetyl chloride (194 μL, 2.73 mmol) was added dropwise to the mixture. The reaction mixture was allowed to stir at 25° C. for 3 h. Additional acetyl chloride (194 μL, 2.73 mmol) was then added, and the reaction mixture was allowed to stir at 25° C. overnight. The reaction mixture was concentrated to dryness and purified by flash chromatography (SiO2; 0-50% EtOAc/hexane gradient) to provide the title compound as an off-white solid (30 mg, 16%): mp 114-118° C.; 1H NMR (400 MHz, CDCl3) δ 7.61 (dd, J=8.5, 7.8 Hz, 1H), 7.22 (dd, J=8.6, 1.8 Hz, 1H), 7.18 (d, J=2.1 Hz, 1H), 4.54 (s, 1H), 3.98 (s, 2H), 3.96 (d, J=0.8 Hz, 2H), 3.92 (s, 2H); ESIMS m/z 341 ([M+H]+), 339 ([M−H]−).

reactant | Methyl 4-acetamido-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methoxypicolinate | 0.55 mmol, 209 mg | C(C)(=O)NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)OC | C17H16ClFN2O5
reactant | acetyl chloride | 2.73 mmol, 194 μL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 2.73 mmol, 194 μL | C(C)(=O)Cl | C2H3ClO
solvent | CH3OH | 10 mL | CO | CH4O
product | methyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methoxypicolinate | 30 mg, 16% | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)OC | C15H14ClFN2O4
